US07208513B2
E. [3-(5-(1H-1,2,4-Triazol-3-yl)1H-indazol-3-yl)phenyl]-N-(2-methoxyethyl)carboxamide
The title compound was prepared by dissolving methyl 3-{1-perhydro-2H-pyran-2-yl-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)]-1H-indazol-3-yl}benzoate (0.403 g, 0.62 mmol) and lithium hydroxide (0.052 g, 2.17 mmol) in tetrahydrofuran (3 mL) and water (2 mL). This reaction mixture was heated to 50° C. reacted overnight. The reaction was monitored by thin layer chromatography (100% ethyl acetate). To this reaction, 1-hydroxybenzotriazole (0.256 g, 1.89 mmol), 1-ethyl-(3-dimethylaminopropyl)carbodiimide hydrochloride (0.369 g, 1.92 mmol), and 2-methoxyethylamine (0.16 mL, 1.87 mmol) were added and allowed to stir overnight at room temperature. The reaction was then diluted with ethyl acetate and washed with a 1:1 solution of sodium chloride (saturated aqueous): sodium bicarbonate (saturated aqueous) and partitioned. The aqueous layer was extracted with ethyl acetate (2×), and the organic layers were combined, dried with sodium sulfate, filtered, and condensed. The crude solid was subsequently taken up in 4 N hydrochloride solution in dioxane (8 mL), and stirred at 50° C. overnight. The reaction was quenched by adding the mixture dropwise to sodium bicarbonate (saturated aqueous) (100 mL). The mixture was then extracted with ethyl acetate (3×), and the organics combined, dried with sodium sulfate, filtered, and condensed. The compound was purified by preparative HPLC (10–80% acetonitrile in H2O, 20 min.) (0.019 g, 9% yield): 1H NMR (CD3OD) δ 8.74 (s, 1H), 8.41 (t, 1H), 8.25 (br s, 1H), 8.15 (dt, 1H), 8.07 (d, 1H), 7.86 (dt, 1H), 7.63 (dd, 2H), 3.58 (s, 4H), 3.35 (s, 3H); ES-MS (m/z) 363 [M+1]+.

reactant | methyl 3-{1-perhydro-2H-pyran-2-yl-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)]-1H-indazol-3-yl}benzoate | 0.62 mmol, 0.403 g | O1C(CCCC1)N1N=C(C2=CC(=CC=C12)C1=NN(C=N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=1C=C(C(=O)OC)C=CC1 | C41H35N5O3
reactant | lithium hydroxide | 2.17 mmol, 0.052 g | [OH-].[Li+]
reactant | 1-hydroxybenzotriazole | 1.89 mmol, 0.256 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-(3-dimethylaminopropyl)carbodiimide hydrochloride | 1.92 mmol, 0.369 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 2-methoxyethylamine | 1.87 mmol, 0.16 mL | COCCN | C3H9NO
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | water | 2 mL | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | hydrochloride | 4 N | Cl | ClH
solvent | dioxane | 8 mL | O1CCOCC1 | C4H8O2
product | [3-(5-(1H-1,2,4-Triazol-3-yl)1H-indazol-3-yl)phenyl]-N-(2-methoxyethyl)carboxamide | 9% yield | N1N=C(N=C1)C=1C=C2C(=NNC2=CC1)C=1C=C(C=CC1)C(=O)NCCOC | C19H18N6O2
